US09169242B2
5-Bromo-N-(3-methylpyridin-4-yl)thiophene-2-carboxamide
To a solution of 3-methylpyridine-4-amine (1.23 g, 11.37 mmol, 1.2 eq) in DMF (5 mL) at 0° C. was added solid sodium hydride (60% suspension in mineral oil, 0.44 g, 18.49 mmol, 2.0 eq) and stirred for 1 h at room temperature. In a separate flask, to a solution of 5-bromothiophene-2-carboxylic acid (1.91 g, 9.25 mmol, 1.0 eq) in DCM (10 mL) was added oxalyl chloride (4.0 mL, 46.2 mmol, 5.0 eq) at 0° C. and then stirred at the same temperature for 2 h. The solvent and excess of oxalyl chloride were removed by evaporation under vacuum. The residue was dissolved in DMF (2 mL) and added to the above mixture at 0° C. and the resulting mixture was stirred at room temperature overnight. Water (10 mL) was added to the reaction followed by ethyl acetate (10 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with water (2×20 mL), brine (20 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum and purified by column chromatography (silica gel, DCM:MeOH system) to afford 1.0 g of the desired product as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.39 (d, J=5.5 Hz, 1H), 8.36 (s, 1H), 8.05 (d, J=5.5 Hz, 1H), 7.87 (s, 1H, D2O exchangeable), 7.40 (d, J=4.0 Hz, 1H), 7.09 (d, J=4.0 Hz, 1H), 2.29 (s, 3H); ESI-MS (m/z) 297, 299 [(MH)+ Br79,81].

reactant | 3-methylpyridine-4-amine | 11.37 mmol, 1.23 g, 1.2 eq | CC=1C=NC=CC1N | C6H8N2
reactant | sodium hydride | 18.49 mmol, 0.44 g, 2.0 eq | [H-].[Na+]
reactant | 5-bromothiophene-2-carboxylic acid | 9.25 mmol, 1.91 g, 1.0 eq | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | oxalyl chloride | 46.2 mmol, 4.0 mL, 5.0 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-N-(3-methylpyridin-4-yl)thiophene-2-carboxamide | 1.0 g | BrC1=CC=C(S1)C(=O)NC1=C(C=NC=C1)C | C11H9BrN2OS
